US06342765B1
A solution of tert-butyl (2S)-2-{2-(4-fluorophenyl)-6-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]pyrid-3-oylamino}-4-methylsulfanylbutyrate (0.1 g.) in TFA(20 ml.) was stirred at ambient temperature under an inert atmosphere for 30 minutes. The TFA was evaporated away and the residue was converted to the hydrochloride salt to give (2S)-2-{2-(4-fluorophenyl)-6-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]pyrid-3-oylamino}-4-methylsulfanylbutyric acid as a white solid (0.092 g.).

reactant | tert-butyl (2S)-2-{2-(4-fluorophenyl)-6-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]pyrid-3-oylamino}-4-methylsulfanylbutyrate | 0.1 g | FC1=CC=C(C=C1)C1=NC(=CC=C1C(=O)N[C@H](C(=O)OC(C)(C)C)CCSC)OC(CN1C=NC=C1)C1=CC=C(C=C1)F | C32H34F2N4O4S
solvent | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (2S)-2-{2-(4-fluorophenyl)-6-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]pyrid-3-oylamino}-4-methylsulfanylbutyric acid | FC1=CC=C(C=C1)C1=NC(=CC=C1C(=O)N[C@H](C(=O)O)CCSC)OC(CN1C=NC=C1)C1=CC=C(C=C1)F | C28H26F2N4O4S
